US06924400B2
(f) Tert-butyl (6,2′-dimethyl-4′propionylbiphenyl-3-yl)carbamate
800 mg (3.15 mmol) of 1-(5′-amino-2,2′-dimethylbiphenyl-4-yl)-1-propanone are dissolved in 50 ml of dichloromethane. 500 μl (3.5 mmol) of triethylamine are added, followed by addition of 760 mg (3.5 mmol) of di-tert-butyl dicarbonate. The medium is stirred at room temperature for 12 hours and then for 2 hours at 50° C. The medium is treated with water and the residue is then purified by chromatography on a column of silica (eluent: 3 heptane/1 ethyl acetate) to give a yellow crystalline solid (m.p. 119° C., m=1.05 g, Y=94%).

reactant | 1-(5′-amino-2,2′-dimethylbiphenyl-4-yl)-1-propanone | 3.15 mmol, 800 mg | NC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)C)C | C17H19NO
reactant | triethylamine | 3.5 mmol, 500 μl | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.5 mmol, 760 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Tert-butyl (6,2′-dimethyl-4′propionylbiphenyl-3-yl)carbamate | CC1=CC=C(C=C1C1=C(C=C(C=C1)C(CC)=O)C)NC(OC(C)(C)C)=O | C22H27NO3
